US08110588B2
5-(3,4-Dichloro-phenyl)-3-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine (26)
To a stirred and ice-cooled solution of 1-azido-4-methoxy-benzene (2.000 g, 13.4090 mmol) and 3,4-dichlorophenylacetonitrile (2.994 g, 16.0909 mmol) in absolute ethanol (30 ml), an ice-cooled solution of sodium methoxide (1.087 g, 20.1136 mmol) in absolute ethanol (20 ml) is added drop-wise. The resulting reaction mixture is evaporated and the residue is dissolved in methylene chloride and washed with water, brine, dried over MgSO4, filtered and evaporated to afford ˜4.5 g of crude material as brownish solid. This material is purified by crystallization from methylene chloride and petroleum ether, to obtain the title compound as reddish solid (1.536 g, 34% yield). M.p. 189.9-191.3° C. LC-ESI-HRMS of [M+H]+ shows 335.0483 Da. Calc. 335.046642 Da, dev. 4.9 ppm.

reactant | 1-azido-4-methoxy-benzene | 13.4090 mmol, 2.000 g | N(=[N+]=[N-])C1=CC=C(C=C1)OC | C7H7N3O
reactant | 3,4-dichlorophenylacetonitrile | 16.0909 mmol, 2.994 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | sodium methoxide | 20.1136 mmol, 1.087 g | C[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(3,4-Dichloro-phenyl)-3-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine | 1.536 g, 34% yield | ClC=1C=C(C=CC1Cl)C1=C(N(N=N1)C1=CC=C(C=C1)OC)N | C15H12Cl2N4O
